US06548522B1
N-Cyclopropylmethyl-2,2-diphenyl-propionamide
The title compound, white solid, m.p. 380° C. and MS: m/e=279 (M+) was prepared in accordance with the general method of example 1 from 2,2-diphenylpropionyl chloride and cyclopropylmethylamine.

reactant | 2,2-diphenylpropionyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)(C)C1=CC=CC=C1 | C15H13ClO
reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
product | N-Cyclopropylmethyl-2,2-diphenyl-propionamide | C1(CC1)CNC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO
